US05885986
0.92 g (0.00224 mol) of (S)-1-(5-dipropylaminomethyl-oxazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 50 ml of ethyl acetate was treated with 0.67 ml (0.00246 mol) of 3.7N ethanolic hydrochloric acid. After stirring at 0° for 1/2 hr. the suspension was suction filtered. The yellowish crystals were dissolved in hot acetonitrile and recrystallized by the addition of ether. There was obtained 0.88 g (88%) of (S)-1-(5-dipropylaminomethyl-oxazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one hydrochloride (1:1) as whitish crystals; m.p. 233°-236° (dec.) and [α]D20 =-29.2° (H2O, c=1%).

reactant | (S)-1-(5-dipropylaminomethyl-oxazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 0.00224 mol, 0.92 g | C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C21H25N5O2S
reactant | hydrochloric acid | 0.00246 mol, 3.7N, 0.67 ml | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (S)-1-(5-dipropylaminomethyl-oxazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one hydrochloride | 0.88 g, 88% | Cl.C(CC)N(CCC)CC1=CN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | InChI=1S/C21H25N5O2S.ClH/c1-3-7-24(8-4-2)12-14-11-22-20(28-14)17-18-15-5-9-25(15)21(27)19-16(6-10-29-19)26(18)13-23-17;/h6,10-11,13,15H,3-5,7-9,12H2,1-2H3;1H/t15-;/m0./s1
